US07342014B2
Ethyl 6-chloro-4-oxo-1,4-dihydroquinazoline-2-carboxylate
Ethyl chlorooxoacetate (2.0 ml) was added to a solution of 2-amino-5-chlorobenzamide (2.50 g) in pyridine (15 ml), and the mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure, and the resultant residue was dissolved in acetic acid (50 ml). Acetic anhydride (5.0 ml) was added to the solution, and the mixture was heated under reflux for 16 hours. The solvent was distilled off under reduced pressure, and ethanol was added to the residue. Crystals deposited were collected by filtration and washed to obtain the title compound (2.71 g).

reactant | Ethyl chlorooxoacetate | 2.0 ml | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 2-amino-5-chlorobenzamide | 2.50 g | NC1=C(C(=O)N)C=C(C=C1)Cl | C7H7ClN2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 6-chloro-4-oxo-1,4-dihydroquinazoline-2-carboxylate | 2.71 g | ClC=1C=C2C(N=C(NC2=CC1)C(=O)OCC)=O | C11H9ClN2O3
